US07855193B2
2-(5-Benzylbenzofuran-2-yl)-5-(hydroxymethyl)benzonitrile (Step 3, scheme 5)
A solution of Ethyl-4-(5-benzylbenzofuran-2-yl)-3-cyanobenzoate (0.05 g, 0.13 mmol), sodium borohydride (0.01 g, 0.26 mmol) and calcium chloride (0.015 g, 0.13 mmol) in ethanol (2.5 mL) were stirred at room temperature for 1 hour. Water was added and the aqueous layer was extracted with ethyl acetate (×2, 10 mL). Organic layer was washed with water and brine and dried over sodium sulphate in 75% yield: 1H NMR (400 MHz, CDCl3) δ 8.06 (d, 1H), 7.79 (s, 1H), 7.64 (d, 1H), 7.63 (s, 1H), 7.43-7.21 (m, 8H), 4.78 (s, 2H), 4.06 (s, 3H).

reactant | Ethyl-4-(5-benzylbenzofuran-2-yl)-3-cyanobenzoate | 0.13 mmol, 0.05 g | C(C)OC(C1=CC(=C(C=C1)C=1OC2=C(C1)C=C(C=C2)CC2=CC=CC=C2)C#N)=O | C25H19NO3
reactant | sodium borohydride | 0.26 mmol, 0.01 g | [BH4-].[Na+]
reactant | calcium chloride | 0.13 mmol, 0.015 g | [Cl-].[Ca+2].[Cl-]
reactant | Water | O | H2O
solvent | ethanol | 2.5 mL | C(C)O | C2H6O
product | 2-(5-Benzylbenzofuran-2-yl)-5-(hydroxymethyl)benzonitrile | 75% yield | C(C1=CC=CC=C1)C=1C=CC2=C(C=C(O2)C2=C(C#N)C=C(C=C2)CO)C1 | C23H17NO2
